US08431695B2
Step 6: Preparation of benzyl 3-{1-[(tert-butoxycarbonyl)amino]-5-cyano-1H pyrrol-2-yl}azetidine-1-carboxylate
A solution of chlorosulfonylisocyanate (541 μL, 6.22 mmol) in acetonitrile (5 mL) was added dropwise to a cooled (0° C.) solution of benzyl 3-{1-[(tert-butoxycarbonyl)amino]-1H-pyrrol-2-yl}azetidine-1-carboxylate (2.10 g, 5.65 mmol) in acetonitrile (15 mL). The mixture was stirred at 0° C. for 30 min and was warmed to rt. After 1 h, the mixture was recooled (0° C.) and DMF was added dropwise. The reaction was allowed to warm to rt. After 30 min, the mixture was poured onto crushed ice (100 g) and was allowed to warm to rt. The aqueous mixture was extracted with EtOAc (3×75 mL) and the combined organic layers were washed with brine, dried (Na2SO4), and concentrated. The crude material was purified by ISCO® chromatography using a gradient of 50 to 75% ethyl acetate in hexanes to obtain 800 mg (36%) of the desired product, which was used without further characterization.

reactant | chlorosulfonylisocyanate | 6.22 mmol, 541 μL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzyl 3-{1-[(tert-butoxycarbonyl)amino]-1H-pyrrol-2-yl}azetidine-1-carboxylate | 5.65 mmol, 2.10 g | C(C)(C)(C)OC(=O)NN1C(=CC=C1)C1CN(C1)C(=O)OCC1=CC=CC=C1 | C20H25N3O4
reactant | DMF | CN(C)C=O | C3H7NO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | benzyl 3-{1-[(tert-butoxycarbonyl)amino]-5-cyano-1H pyrrol-2-yl}azetidine-1-carboxylate | 800 mg, 36% | C(C)(C)(C)OC(=O)NN1C(=CC=C1C#N)C1CN(C1)C(=O)OCC1=CC=CC=C1 | C21H24N4O4
